US04958019
(1) Synthesis of 7-hydroxy-2-hydroxymethyl-5-methoxycarbonyl-s-triazolo[1,5-a]pyrimidine
In 1.7 liters of methanol was suspended 60 g of 3-amino -5-hydroxymethyl-1,2,4-triazole and 75 ml of dimethyl acetylenedicarboxylate was added to the suspension, and the mixture was stirred at 30 ° C for 20 hours. Precipitates were collected by filtration, washed with methanol and then dried to obtain 25.7 g of the title compound.

reactant | 3-amino -5-hydroxymethyl-1,2,4-triazole | 60 g | NC1=NNC(=N1)CO | C3H6N4O
reactant | dimethyl acetylenedicarboxylate | 75 ml | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | 1.7 liters | CO | CH4O
product | 7-hydroxy-2-hydroxymethyl-5-methoxycarbonyl-s-triazolo[1,5-a]pyrimidine | 25.7 g | OC1=CC(=NC=2N1N=C(N2)CO)C(=O)OC | C8H8N4O4
